US07015217B2
To a solution of 4-tert-butoxystyrene (17.6 g, 100 mmol) in methylene chloride (200 mL) cooled in an ice bath is added a solution of 32% peracetic acid in acetic acid (31.5 mL, 150 mmol). The mixture is stirred at rt overnight and quenched by addition of saturated sodium bicarbonate solution. The organic phase is separated, washed with sodium bicarbonate solution and brine, dried over magnesium sulfate, and evaporated in vacuo. Chromatography on silica gel provides 2-(4-tert-butoxyphenyl)oxirane.

reactant | 4-tert-butoxystyrene | 100 mmol, 17.6 g | C(C)(C)(C)OC1=CC=C(C=C)C=C1 | C12H16O
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
reactant | acetic acid | 150 mmol, 31.5 mL | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-tert-butoxyphenyl)oxirane | C(C)(C)(C)OC1=CC=C(C=C1)C1OC1 | C12H16O2
